US07081329B2
Into acetone (1,000 ml) were dissolved cis-1,2-cyclohexane dicarboxylic anhydride (308.3 g), methacrylic acid (2-hydroxyethyl) (273.3 g) and 4-(dimethylamine) pyridine (4.9 g), and heated for 5 hours under reflux. After acetone had been distilled off under reduced pressure, 1N hydrochloric acid (500 ml) and ethyl acetate (2,000 ml) were added thereto so that an extracting process was carried out. After the organic layer had been washed with saturated saline solution (500 ml) twice, to this was added magnesium sulfuric anhydride (100 g) and this was allowed to stand for 1 hour to be dehydrated. After magnesium sulfate had been filtered and separated, ethyl acetate was distilled off under reduced pressure so that a white solid matter was obtained. After having been ground, this was added to water (2,000 ml), and after having been stirred for 2 hours, this was filtered and dried to obtain a white solid matter (518.9 g) of 2-[2-(methacryloyloxy)ethoxycarbonyl]cyclohexane carboxylic acid.

reactant | acetone | 1,000 ml | CC(=O)C | C3H6O
reactant | cis-1,2-cyclohexane dicarboxylic anhydride | 308.3 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | methacrylic acid | 273.3 g | C(C(=C)C)(=O)O | C4H6O2
solvent | water | 2,000 ml | O | H2O
product | 2-[2-(methacryloyloxy)ethoxycarbonyl]cyclohexane carboxylic acid | 518.9 g | C(C(=C)C)(=O)OCCOC(=O)C1C(CCCC1)C(=O)O | C14H20O6
